US07553845B2
Methyl [3-(4-amino-3-methoxybenzoyl)-6-hydroxy-2-methylindolizin-1-yl]carboxylate
100 mg of Pd/C (10%) are added to 1.0 g (2.17 mmol) of methyl [6-(benzyloxy)-3-(3-methoxy-4-nitrobenzoyl)-2-methylindolizin-1-yl]carboxylate in suspension in 30 mL of dimethylformamide and 30 mL of tetrahydrofuran. The reaction mixture is stirred at 10 bar of hydrogen for 48 hours.

reactant | methyl [6-(benzyloxy)-3-(3-methoxy-4-nitrobenzoyl)-2-methylindolizin-1-yl]carboxylate | 2.17 mmol, 1.0 g | C(C1=CC=CC=C1)OC1=CN2C(=C(C(=C2C=C1)C(=O)OC)C)C(C1=CC(=C(C=C1)[N+](=O)[O-])OC)=O | C26H22N2O7
reactant | hydrogen | [H][H] | H2
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | Methyl [3-(4-amino-3-methoxybenzoyl)-6-hydroxy-2-methylindolizin-1-yl]carboxylate | NC1=C(C=C(C(=O)C2=C(C(=C3C=CC(=CN23)O)C(=O)OC)C)C=C1)OC | C19H18N2O5
